US08445510B2
2-Chloro-6-ethoxy-3-fluorobenzaldehyde
To a cold (−78° C.) solution of 2-Chloro-4-ethoxy-1-fluorobenzene (5.0 g, 28.6 mmol) in THF (100 mL) was added LDA (1.8 M in THF/heptane/ethylbenzene; 40 mL, 72 mmol). After 7 minutes, DMF (7 mL, 85.8 mmol) was added dropwise while keeping the temperature below −60° C. After 40 minutes, the reaction mixture was quenched with sat. aq. ammonium chloride. The organic layer was separated and the aq. layer was washed with ethyl acetate (2×50 mL). The combined organic layer was washed with water (30 mL) followed by brine. The organic layer was dried (Na2SO4) and concentrated to give a 1:1 mixture of the target compound and a regioisomeric aldehyde. The mixture was purified by column chromatography (5/95, ethyl acetate/hexanes) to give the title compound as a white solid. 1H NMR (CDCl3, 400 MHz): δ=1.46 (t, 3H, J=7.2 Hz), 4.11 (q, 2H, J=7.2 Hz), 6.84-6.86 (m, 1H), 7.25-7.28 (m, 1H), 10.48 (s, 1H).

reactant | 2-Chloro-4-ethoxy-1-fluorobenzene | 28.6 mmol, 5.0 g | ClC1=C(C=CC(=C1)OCC)F | C8H8ClFO
reactant | LDA | 72 mmol, 1.8 M, 40 mL | [Li+].CC(C)[N-]C(C)C
reactant | DMF | 85.8 mmol, 7 mL | CN(C)C=O | C3H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Chloro-6-ethoxy-3-fluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1F)OCC | C9H8ClFO2
